US08791255B2
Synthesis of 3-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)benzoic acid
1.8 ml of 2 M sodium hydroxide are added to a solution of 335 mg of methyl 3-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)benzoate in 25 ml of methanol. The reaction mixture is heated at 60° C. for 2 h 30, and it is then concentrated under reduced pressure. The evaporation residue is taken up in 50 ml of water. The aqueous phase is extracted with ethyl acetate and then acidified (pH=6) by adding a 1N solution of hydrochloric acid. The precipitate formed is filtered off and then washed with 20 ml of water, 5 ml of ethyl acetate and, finally, 20 ml of ethyl ether. The solid is dried under vacuum and 175 mg of 3-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)benzoic acid are thus obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium hydroxide | 2 M, 1.8 ml | [OH-].[Na+]
reactant | methyl 3-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)benzoate | 335 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC=1C=C(C(=O)OC)C=CC1 | C18H20N4O5
solvent | methanol | 25 ml | CO | CH4O
product | 3-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)benzoic acid | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC=1C=C(C(=O)O)C=CC1 | C17H18N4O5
